US05597832
To a solution of diisopropylamine (2.7 mL, 19.4 mmol) in 50 mL of THF cooled to -78° C. was added 7.8 mL (2.5M in hexane, 19.4 mmol) of nbutyllithium, and the reaction was stirred for 0.5 hours. To the first solution was added 4.7 g (19.4 mmol) of 3,4-dibromothiophene (Aldrich), then the reaction mixture was stirred for 1 hour at -78° C. Iodopropane (2.8 mL, 29.1 mmol) was then added, the reaction stirred for 10 min at -78° C., then removed for the cooling bath and stirred for 2 hours at room temperature. The reaction was quenched with aqueous satd. NH4Cl, extracted with ether, washed with H2O and brine, and concentrated to give 5.27 g of crude 3,4-dibromo-2-propylthiophene. This compound (5.25 g, 18.5 mmol) was dissolved in 80 mL of ether and cooled to -78° C. n-Butyllithium (7.4 mL, 18.5 mmol) was added dropwise via syringe, and the resulting mixture was stirred at -78° C. for 20 min. DMF was added (1.86 mL, 24.03 mmol), and the reaction was stirred at -78° C. for 1 hour, then poured into water and extracted with ether. The extract was washed with water, dried over MgSO4, and concentrated in vacuo. Silica gel column chromatography afforded 0.63 g of the title compound. NMR (CDCl3) δ:10.07 (s, 1H), 7.09 (s, 1H), 3.20 (t, J=7 Hz, 2H), 1.74 (m, 2H), 1.02 (t, J=7 Hz, 3H).

reactant | diisopropylamine | 19.4 mmol, 2.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,4-dibromothiophene | 19.4 mmol, 4.7 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | Iodopropane | 29.1 mmol, 2.8 mL | ICCC | C3H7I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3,4-dibromo-2-propylthiophene | 5.27 g | BrC1=C(SC=C1Br)CCC | C7H8Br2S
